US09371320B2
D) (2E)-3-(4-bromo-1-(cis-2-methylcyclopentyl)-1H-pyrrol-2-yl)acryloyl azide
To a solution of (2E)-3-(4-bromo-1-(cis-2-methylcyclopentyl)-1H-pyrrol-2-yl)acrylic acid (700 mg) in DMF (7 mL) was added a solution of triethylamine (0.36 mL) and diphenylphosphoryl azide (0.678 g) in DMF (1 mL) at room temperature, and the mixture was stirred at room temperature for 4 hr. The reaction mixture was added to water, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (685 mg).

reactant | (2E)-3-(4-bromo-1-(cis-2-methylcyclopentyl)-1H-pyrrol-2-yl)acrylic acid | 700 mg | BrC=1C=C(N(C1)[C@H]1[C@H](CCC1)C)/C=C/C(=O)O | C13H16BrNO2
reactant | triethylamine | 0.36 mL | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 0.678 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | water | O | H2O
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (2E)-3-(4-bromo-1-(cis-2-methylcyclopentyl)-1H-pyrrol-2-yl)acryloyl azide | 685 mg | BrC=1C=C(N(C1)[C@H]1[C@H](CCC1)C)/C=C/C(=O)N=[N+]=[N-] | C13H15BrN4O
